US07642264B2
2-Chloro-4-(3-chloro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(3-chloro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one (2.44 g, 8.88 mmol) and phosphoroxychloride (25 mL) according to the general procedure I. Obtained as a white solid (1.62 g, 62%). MS (EI) 292.0 [(M)+]; mp 89.5° C.

reactant | 4-(3-chloro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one | 8.88 mmol, 2.44 g | ClC=1C=C(C=CC1)C1=NC(NC(=C1)C(F)(F)F)=O | C11H6ClF3N2O
reactant | phosphoroxychloride | 25 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(3-chloro-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC(=CC=C1)Cl)C(F)(F)F | C11H5Cl2F3N2
